US04435567
5.64 g n-butylcarbamoyl-benzoic acid sulfimide was reacted with 2.14 g p-toluidine and 2.8 ml triethylamine in 20 ml of a 1:1 mixture of water and acetone, as described in example 1. 3.28 g 1-(p-tolyl)-3-(n-butyl)-urea was obtained, melting at 118°-119° C.

reactant | n-butylcarbamoyl-benzoic acid sulfimide | 5.64 g | [SH2]=N.C(CCC)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | p-toluidine | 2.14 g | NC1=CC=C(C=C1)C | C7H9N
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(p-tolyl)-3-(n-butyl)-urea | 3.28 g | C1(=CC=C(C=C1)NC(=O)NCCCC)C | C12H18N2O
